US06602884B2
1.88-cm3 of dimethyl sulfoxide in 6-cm3 of dichloromethane were poured, over 10 minutes, into a solution of 1.32-cm3 of oxalyl dichloride in 30-cm3 of dichloromethane cooled to −70° C., with stirring and under an inert atmosphere. After 10 minutes, a solution of 1.7 g of methyl (3RS,4RS)4-[3-(R,S)-hydroxy-3-(3-fluoro-6-methoxyquinolin-4-yl)propyl]-1-[2-(2,5-difluorophenylthio)ethyl]piperidine-3-acetate in 15-cm3 of dichloromethane was poured in over 10 minutes. After 15 minutes, 8.4-cm3 of triethylamine in 10-cm3 of dichloromethane were added dropwise over 15 minutes and the reaction mixture was stirred for 45 minutes in the region of −70° C. and then for 20 hours in the region of 20° C. 50-cm3 of distilled water were poured over the reaction mixture, the organic phase was separated after settling out, washed with 50-cm3 of a saturated aqueous sodium hydrogen carbonate solution, twice with 30-cm3 of distilled water and 30-cm3 of a saturated aqueous sodium chloride solution. The organic extract was dried over magnesium sulfate, filtered and concentrated to dryness under reduced pressure (2 kPa) at a temperature in the region of 40° C. The residue obtained was purified by chromatography under an argon pressure of 50 kPa, on a column of silica gel (particule size 40-60 μm; diameter 3-cm), eluting with a cyclohexane-ethyl acetate (60/40 by volume) mixture and collecting 10-cm3 fractions. The fractions containing the expected product were combined and then concentrated to dryness according to the conditions described above. 1.37 g of methyl (3RS,4RS)-4-[3-oxo-3-(3-fluoro-6-methoxyquinolin-4-yl)propyl]-1-[2-(2,5-difluorophenylthio)ethyl]piperidine-3-acetate were obtained.

reactant | dimethyl sulfoxide | 1.88-cm3 | CS(=O)C | C2H6OS
reactant | oxalyl dichloride | 1.32-cm3 | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | methyl (3RS,4RS)4-[3-(R,S)-hydroxy-3-(3-fluoro-6-methoxyquinolin-4-yl)propyl]-1-[2-(2,5-difluorophenylthio)ethyl]piperidine-3-acetate | 1.7 g | OC(CCC1C(CN(CC1)CCSC1=C(C=CC(=C1)F)F)CC(=O)OC)C1=C(C=NC2=CC=C(C=C12)OC)F | C29H33F3N2O4S
reactant | triethylamine | 8.4-cm3 | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 6-cm3 | ClCCl | CH2Cl2
solvent | dichloromethane | 30-cm3 | ClCCl | CH2Cl2
solvent | dichloromethane | 15-cm3 | ClCCl | CH2Cl2
solvent | dichloromethane | 10-cm3 | ClCCl | CH2Cl2
solvent | water | 50-cm3 | O | H2O
product | methyl (3RS,4RS)-4-[3-oxo-3-(3-fluoro-6-methoxyquinolin-4-yl)propyl]-1-[2-(2,5-difluorophenylthio)ethyl]piperidine-3-acetate | 1.37 g | O=C(CCC1C(CN(CC1)CCSC1=C(C=CC(=C1)F)F)CC(=O)OC)C1=C(C=NC2=CC=C(C=C12)OC)F | C29H31F3N2O4S
